US06429213B1
To a solution of quinaldine (75 g, 0.523 mol) in methanol (1100 mL) and water (550 mL) at room temperature was added sulfuric acid (28 mL, 0.523 mol) followed by iron(II) sulfate heptahydrate. Nitrogen was bubbled into the solution for 20 min and ammonium sulfate (177 g, 1.56 mol) was added. The resultant mixture was stirred in a water bath (20° C.) under nitrogen for 4 hours and quenched with 10% sodium hydroxide (pH=9-10). Methanol was removed by concentration in vacuo and the resulting aqueous solution was extracted with ethyl acetate three times. The combined organic phase was filtered through silica gel and washed with water and brine, dried (MgSO4) and concentrated. Crystallization from ethyl acetate gave 2-methyl-4-hydroxymethylquinoline (24.6 g, 27%) as a solid. MS(NH3-CI): (M+H)+=174.

reactant | quinaldine | 0.523 mol, 75 g | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | sulfuric acid | 0.523 mol, 28 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonium sulfate | 1.56 mol, 177 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | methanol | 1100 mL | CO | CH4O
solvent | water | 550 mL | O | H2O
catalyst | iron(II) sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 2-methyl-4-hydroxymethylquinoline | 24.6 g, 27% | CC1=NC2=CC=CC=C2C(=C1)CO | C11H11NO
